US07579488B2
Preparation of 5-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-7-methyl-benzofuran-2-carboxylic acid
A solution of 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-7-methyl-benzofuran-2-carboxylic acid (250 mg, 0.555 mmol) in THF (10 mL) at RT is treated with NaBH4 (42 mg, 1.11 mmol). The resulting mixture is stirred for 60 min and is quenched with HCl (1.0 N, 5.0 mL) and extracted with EtOAc (2×30 mL). The organic layer is dried over Na2SO4, concentrated to afford the title compound (170 mg, 68%).

reactant | 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-7-methyl-benzofuran-2-carboxylic acid | 0.555 mmol, 250 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=C(C2=C(C=C(O2)C(=O)O)C1)C)C)=O)(C)C | C28H34O5
reactant | NaBH4 | 1.11 mmol, 42 mg | [BH4-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-7-methyl-benzofuran-2-carboxylic acid | 170 mg, 68% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C=1C=C(C2=C(C=C(O2)C(=O)O)C1)C | C28H36O5
